US09102688B2
2,4,6-Trichloro-N-quinolin-8-yl-benzenesulfonamide (Example Compound 47)
In the similar fashion using route 14 general procedure 27, 8-aminoquinoline (100 mg, 0.69 mmol), 2,4,6 trichlorobenzenesulfonyl chloride (280 mg, 1.03 mmol) and DMAP (cat.) gave the title compound (200 mg, 76%) after purification by column chromatography with DCM as the eluent.

reactant | 8-aminoquinoline | 0.69 mmol, 100 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 2,4,6 trichlorobenzenesulfonyl chloride | 1.03 mmol, 280 mg | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,4,6-Trichloro-N-quinolin-8-yl-benzenesulfonamide | 200 mg, 76% | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)NC=1C=CC=C2C=CC=NC12 | C15H9Cl3N2O2S
